datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CCCCCC 10=20;20,21=21"
"[O:10]([Na])C(C)C(C)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[O+:10]([Na])C(C)C(C)C1[H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])/C(C)=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[OH:21][C:20]1(OC)[OH+:10]C(CC)C(C)=C1C>>[OH:10]C(CC)/C(C)=C([C:20](OC)=[OH+:21])/C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)C)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)C)CC 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C)CC 21=20;20,10=10"
"[H][O:10]C(C)C(C)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH][H].[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CC)C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[Cl-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C)[O]1 10=20;20,21=21"
